US09023847B2
173. 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide using 3-chlorobenzylamine instead of benzylamine and obtained in 15% yield (HPLC: 94%, RT: 6.54 min). 1H NMR (DMSO-d6) 11.98 (br s, 1H), 11.33 (s, 1H), 8.61 (t, J=6.0 Hz, 1H), 8.50 (d, J=5.5 Hz, 1H), 8.39 (s, 1H), 7.81 (d, J=5.5 Hz, 1H), 7.41-7.29 (m, 5H), 6.43 (dd, J=3.7, 1.8 Hz, 1H), 4.50 (d, J=5.9 Hz, 2H); MS (m/z) 384 [M+H]+ (35Cl).

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C18H15N5OS
reactant | 3-chlorobenzylamine | ClC=1C=C(CN)C=CC1 | C7H8ClN
product | 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide | 15% yield | ClC=1C=C(CNC(=O)C=2SC=CC2NC=2C3=C(N=CN2)NC=C3)C=CC1 | C18H14ClN5OS
